US04041026
To a solution of sodium hydride (50% suspension in a mineral oil; 200 mg) in dry dimethylformamide (7.5 ml), 7-chloro-5-methoxy-1-methyl-4-nitro-5phenyl-1,3,4,5-tetrahydro-2H-1,4-benzodiazepin-2-one (500 mg) is added under cooling at -30° C. and with stirring, and the resultant mixture is stirred at -10° C. for 30 minutes. The reaction mixture is poured into icy water and shaken with diethyl ether. The organic layer is washed with water, dried over sodium sulfate, and evaporated to remove the solvent. The residue is crystallized from diethyl ether to give 7-chloro-5-methoxy-1-methyl-5-phenyl-1,5-dihydro-2H-1,4-benzodiazepin-2-one (192 mg) as colorless prisms melting at 146.5 to 147° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 7-chloro-5-methoxy-1-methyl-4-nitro-5phenyl-1,3,4,5-tetrahydro-2H-1,4-benzodiazepin-2-one | 500 mg | ClC=1C=CC2=C(C(N(CC(N2C)=O)[N+](=O)[O-])(C2=CC=CC=C2)OC)C1 | C17H16ClN3O4
reactant | water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
product | 7-chloro-5-methoxy-1-methyl-5-phenyl-1,5-dihydro-2H-1,4-benzodiazepin-2-one | 192 mg | ClC=1C=CC2=C(C(N=CC(N2C)=O)(C2=CC=CC=C2)OC)C1 | C17H15ClN2O2
